US08729104B2
Step A: Preparation of ethyl 4-(cyclobutylcarbonyl)benzoate (i-4-a)
Intermediate i-4a was prepared from 4-ethoxycarbonylphenyl zinc iodide and cyclobutanecarbonyl chloride following the above procedure as described for intermediate i-1a. 1HNMR (500 MHz, CDCl3): δ 8.13 (d, 2H, J=8.2 Hz), 7.96 (d, 2H, J=8.3 Hz), 4.43 (q, 2H, J=7.1 Hz), 4.04 (dt, 1H, J=6.9, 7.4 Hz), 2.44 (m, 2H), 2.34 (m, 2H), 2.14 (m, 1H), 1.96 (m, 1H), 1.43 (t, 3H, J=7.0 Hz).

reactant | 4-ethoxycarbonylphenyl zinc iodide | [I-].C(C)OC(=O)C1=CC=C(C=C1)[Zn+]
reactant | cyclobutanecarbonyl chloride | C1(CCC1)C(=O)Cl | C5H7ClO
product | ethyl 4-(cyclobutylcarbonyl)benzoate | C1(CCC1)C(=O)C1=CC=C(C(=O)OCC)C=C1 | C14H16O3
